US07642264B2
4-(3,4-Dichloro-phenyl)-2-imidazol-1-yl-6-methyl-pyridine
The title compound was prepared from 2-chloro-4-(3,4-dichloro-phenyl)-6-methylpyridine (example A.51) (0.5 g, 0.8 mmol) and commercially available imidazole (0.112 g, 1.6 mmol) according to the general procedure IVa. Obtained as a white solid (0.060 g, 24%). MS (ISP) 304.0 [(M+H)+], 306 [(M+2+H)+] and 308 [(M+4+H)+]; mp 227° C.

reactant | 2-chloro-4-(3,4-dichloro-phenyl)-6-methylpyridine | 0.8 mmol, 0.5 g | ClC1=NC(=CC(=C1)C1=CC(=C(C=C1)Cl)Cl)C | C12H8Cl3N
reactant | imidazole | 1.6 mmol, 0.112 g | N1C=NC=C1 | C3H4N2
product | 4-(3,4-Dichloro-phenyl)-2-imidazol-1-yl-6-methyl-pyridine | ClC=1C=C(C=CC1Cl)C1=CC(=NC(=C1)C)N1C=NC=C1 | C15H11Cl2N3
